US09376365B2
Catalytic Methoxycarbonylation of β-Farnesene Using [PdCl2(Tri-2-Furylphosphine)2] Complex
In a 300 ml/500 bar reactor Premex were placed (E)-7,11-dimethyl-3-methylenedodeca-1,6,10-triene (10.0 g, 48.9 mmol) in THF (100 ml). Methanol (2.0 ml, 49.4 mmol), and Pd(Cl)2(tri-2-furylphosphine)2 (157 mg, 0.245 mmol; 0.5 mol %) were added. Then the reactor was sealed and the mixture purged with 3×10 bar of carbon monoxide. While stirring, the autoclave was pressurized to 50 bar with CO and the content heated to 90° C. Once the temperature equilibrated to the set point, the autoclave was pressurized to 70 bar with CO and these conditions were then maintained for 68 h. The crude mixture was concentrated on a rotary evaporator affording 11.7 g of yellow liquid. The crude material was bulb to bulb distilled (0.4 mbar, 170° C.) to give 11.3 g of colorless liquid fraction containing (3E,7E)-methyl-4,8,12-trimethyltrideca-3,7,11-trienoate and (3Z,7E)-methyl-4,8,12-trimethyltrideca-3,7,11-trienoate (87%, 2/1).

reactant | (3E,7E)-methyl-4,8,12-trimethyltrideca-3,7,11-trienoate | COC(C\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)=O | C17H28O2
reactant | (3Z,7E)-methyl-4,8,12-trimethyltrideca-3,7,11-trienoate | COC(C\C=C(/CC\C=C(\CCC=C(C)C)/C)\C)=O | C17H28O2
product | β-Farnesene | CCC(=C)CC\C=C(/C)\CCC=C(C)C | C15H26
